US04429155
The procedure described in Example 27 is followed, using a catalyst which contains 1.0% by weight of palladium on a zinc/aluminum spinel and starting from 2,6-diisopropylcyclohexylamine. 2,6-Diisopropylaniline (boiling point=257° C.) is obtained in a yield of 93% of the theory.

reactant | 2,6-diisopropylcyclohexylamine | C(C)(C)C1C(C(CCC1)C(C)C)N | C12H25N
catalyst | palladium | [Pd] | Pd
product | 2,6-Diisopropylaniline | yield of 93% | C(C)(C)C1=C(N)C(=CC=C1)C(C)C | C12H19N
